US05753664
7-[4-(2,4-Dichlorobenzoyl)benzyl]-1,3-dimethyl-xanthine
To a solution of theophylline (1.80 g) in DMF (20 ml) were added potassium carbonate (1.66 g) and 4-(2,4-dichlorobenzoyl)benzyl bromide (3.33 g) and the mixture was stirred at room temperature for 24 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was recrystallized (ethyl acetate) to provide the title compound as white powder (3.38 g, 76%). 1H-NMR (CDCl3) δ: 3.39(3H,s), 3.60(3H,s), 5.58(2H,s), 7.25-7.84(8H,m).

reactant | theophylline | 1.80 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2,4-dichlorobenzoyl)benzyl bromide | 3.33 g | ClC1=C(C(=O)C2=CC=C(CBr)C=C2)C=CC(=C1)Cl | C14H9BrCl2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(2,4-Dichlorobenzoyl)benzyl]-1,3-dimethyl-xanthine | 3.38 g, 76% | ClC1=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=CC(=C1)Cl | C21H16Cl2N4O3
